US03957861
The 2-(2'-nitro-4-biphenylyl)propionic acid is readily prepared in the following manner: 2-nitrobiphenyl is acylated with acetyl chloride, giving 4-acetyl-2'-nitrobiphenyl. This is converted with chloroacetonitrile under alkaline conditions to the intermediate isomeric 2-methyl-2-[4-(2'-nitrophenyl)]glycidonitriles which, when treated with lithium perchlorate and then base, is isomerized to methyl 2-(2'-nitro-4-biphenylyl)propionate. Saponificiation of the latter gives the desired 2-(2'-nitro-4-biphenylyl)-propionic acid. The esters are readily converted to the acid and the acid to the esters by conventional means.

reactant | chloroacetonitrile | ClCC#N | C2H2ClN
reactant | lithium perchlorate | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | methyl 2-(2'-nitro-4-biphenylyl)propionate | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OC)C | C16H15NO4
product | 2-(2'-nitro-4-biphenylyl)-propionic acid | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)O)C | C15H13NO4
